US05070089
Methyl 4-{2-(2,3,4-trihydroxyphenyl)ethyl}-1-piperazinecarbodithioate (Com. No. 68)
In 14 ml of dry dichloromethane was dissolved 1 ml of boron tribromide. 9.3 ml of the resulting solution containing 665 mmol. of boron tribromide was chilled to -50° C. in a nitrogen atmosphere. To the chilled solution was dropwise added a solution of 0.73 g of methyl 4-{2-(2,3,4-trimethoxyphenyl)ethyl}-1-piperazinecarbodithioate in 25 ml of dry dichloromethane for 15 min. The resulting mixture was left to reach room temperature, and then stirred overnight. To the mixture was added 3 ml of water, and further added a saturated aqueous sodium hydrogen carbonate solution until the mixture had pH 8. The mixture was then extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and placed under reduced pressure to distill off the solvent, yielding 205 mg of the desired compound as a grayish powder, m.p. 156°-158° C. (decomp.), yield 31.5%.

reactant | methyl 4-{2-(2,3,4-trimethoxyphenyl)ethyl}-1-piperazinecarbodithioate | 0.73 g | COC1=C(C=CC(=C1OC)OC)CCN1CCN(CC1)C(=S)SC | C17H26N2O3S2
reactant | water | 3 ml | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
solvent | boron tribromide | 1 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | Methyl 4-{2-(2,3,4-trihydroxyphenyl)ethyl}-1-piperazinecarbodithioate | 205 mg, yield 31.5% | OC1=C(C=CC(=C1O)O)CCN1CCN(CC1)C(=S)SC | C14H20N2O3S2
